US07285518B2
Step B—Preparation of N-(1,2,3,4-tetrahydroquinolin-8-yl)-1,2,3,4-tetrahydroquinolin-6-amine
A solution of 3.68 grams of N-quinolin-8-ylquinolin-6-amine from above in 60 mL of acetic acid containing 0.22 grams of platinum(IV) oxide was hydrogenated at 40 psi for 2.0 hours on a Parr low-pressure hydrogenator. The solution was filtered through diatomaceous earth; concentrated in vacuo; and neutralized with 3N aqueous sodium hydroxide. The aqueous phase was diluted with water and extracted three times with ethyl acetate. The combined ethyl acetate layers were washed with brine; dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield 1.6 grams of brown solid. The solid was chromatographed on silica gel, eluting with hexane/ethyl acetate gradient to afford 0.8 grams of the desired product as a purple solid. 1H NMR (CDCl3/D2O) δ 6.4-6.9 (m, 6H), 3.2-3.4 (m, 4H), 2.6-2.9 (m, 4H), 1.8-2.1 (m, 4H).

reactant | N-quinolin-8-ylquinolin-6-amine | 3.68 grams | N1=CC=CC2=CC=CC(=C12)NC=1C=C2C=CC=NC2=CC1 | C18H13N3
solvent | acetic acid | 60 mL, 0.22 grams | C(C)(=O)O | C2H4O2
catalyst | platinum(IV) oxide | [Pt](=O)=O
product | N-(1,2,3,4-tetrahydroquinolin-8-yl)-1,2,3,4-tetrahydroquinolin-6-amine | 1.6 grams | N1CCCC2=CC=CC(=C12)NC=1C=C2CCCNC2=CC1 | C18H21N3
